US04198398
(a) tert.butoxycarbonyl-5-amino-pentanoic acid
5-Amino pentanoic acid (0.585 g, 5 m mol) was stirred for two days in dimethylformamide (5 ml) containing tetramethylguanidine (1.14 g, 10 m mol) and tert.butoxycarbonylazide (1.1 g, 7.5 m mol). The solution was evaporated and the residue partitioned between ethyl acetate (20 ml) and 10% citric acid solution (20 ml). The organic layer was washed with 10% citric acid (2×15 ml), water (3×15 ml) and brine 1×15 ml). Each aqueous wash was back extracted with ethyl acetate (20 ml). The combined organic layers were dried over anhydrous magnesium sulphate and evaporated to give an oil which slowly crystallised. Recrystallisation from diisopropyl ether/petrol gave 0.745 g (70% yield), mp. 47.5°-48.5° C., Rf silica gel 0.40 (benzene:dioxan:acetic acid 95:75:4).

reactant | 5-Amino pentanoic acid | 0.585 g | NCCCCC(=O)O | C5H11NO2
reactant | tetramethylguanidine | 1.14 g | CN(C(N(C)C)=N)C | C5H13N3
reactant | tert.butoxycarbonylazide | 1.1 g | C(C)(C)(C)OC(=O)N=[N+]=[N-] | C5H9N3O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | tert.butoxycarbonyl-5-amino-pentanoic acid | 70% yield | C(C)(C)(C)OC(=O)C(C(=O)O)CCCN | C10H19NO4
